US09079878B2
2-Oxo-2-[4-(trifluoromethoxy)phenyl]ethyl (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetate
(3-{[(Benzyloxy)carbonyl]amino}oxetan-3-yl)acetic acid (Preparation 25, 1.011 Kg, 3.812 mol) was stirred in ethyl acetate (8 L). 2-Bromo-1-[4-(trifluoromethoxy)phenyl]-ethanone (1.08 Kg, 3.81 mol) was added, followed by triethylamine (585 mL, 4.19 mol). The reaction was initially fully solubilised, but a precipitate was then observed. The reaction was washed with water (2×4 L), then concentrated in vacuo to afford the title compound as a mobile orange oil (1.903 Kg, 107%, contains residual ethyl acetate).

reactant | (3-{[(Benzyloxy)carbonyl]amino}oxetan-3-yl)acetic acid | 3.812 mol, 1.011 Kg | C(C1=CC=CC=C1)OC(=O)NC1(COC1)CC(=O)O | C13H15NO5
reactant | 2-Bromo-1-[4-(trifluoromethoxy)phenyl]-ethanone | 3.81 mol, 1.08 Kg | BrCC(=O)C1=CC=C(C=C1)OC(F)(F)F | C9H6BrF3O2
reactant | triethylamine | 4.19 mol, 585 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 8 L | C(C)(=O)OCC | C4H8O2
product | 2-Oxo-2-[4-(trifluoromethoxy)phenyl]ethyl (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetate | 1.903 Kg, 107% | C(C1=CC=CC=C1)OC(=O)NC1(COC1)CC(=O)OCC(C1=CC=C(C=C1)OC(F)(F)F)=O | C22H20F3NO7
